US09428465B2
Step 1. Preparation of tert-butyl 5-bromo-3-methyl-2,4-dioxo-pyrimidine-1-carboxylate
The title compound was obtained according to the procedure described for Example 16 (Step 1), starting from tert-butyl 5-bromo-2,4-dioxo-pyrimidine-1-carboxylate (1.43 g, 4.92 mmol); iodomethane was used herein and the reaction was stirred under nitrogen for 1.5 hrs. The crude was purified by column chromatography using a Teledyne ISCO apparatus (cyclohexane:EtOAc 70:30) to afford the title compound (0.85 g, 57%) as a white solid. 1H NMR (400 MHz, CDCl3): δ 1.62 (s, 9H), 3.40 (s, 3H), 8.18 (s, 1H).

reactant | tert-butyl 5-bromo-2,4-dioxo-pyrimidine-1-carboxylate | 4.92 mmol, 1.43 g | BrC=1C(NC(N(C1)C(=O)OC(C)(C)C)=O)=O | C9H11BrN2O4
reactant | iodomethane | IC | CH3I
product | tert-butyl 5-bromo-3-methyl-2,4-dioxo-pyrimidine-1-carboxylate | 0.85 g, 57% | BrC=1C(N(C(N(C1)C(=O)OC(C)(C)C)=O)C)=O | C10H13BrN2O4
